US07683079B2
Step F]: (3R,4R) and (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid
(3R,4R) and (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester (262 mg) and lithium hydroxide (166 mg) in 5 ml THF, 5 ml MeOH and 1 ml H2O were stirred for 24 h at ambient temperature. The mixture was diluted with buffer pH 7 and extracted with AcOEt. The combined organic layers were washed with brine and dried over sodium sulfate. Removal of the solvent under reduced pressure gave an oil which was purified by column chromatography (Isolute SPE Flash NH2, AcOEt) and precipitated (AcOEt/heptane) to give 90 mg (37%) of the title compound as a white solid.

reactant | (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid ethyl ester | 262 mg | C(C)OC(=O)[C@H]1CN(CC[C@@H]1N)CCC1=CC(=C(C=C1)OC)OC | C18H28N2O4
reactant | lithium hydroxide | 166 mg | [OH-].[Li+]
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
solvent | H2O | 1 ml | O | H2O
product | (3S,4S)-4-Amino-1-[2-(3,4-dimethoxy-phenyl)-ethyl]-piperidine-3-carboxylic acid | 90 mg, 37% | N[C@@H]1[C@H](CN(CC1)CCC1=CC(=C(C=C1)OC)OC)C(=O)O | C16H24N2O4
